US04302588
2.0 g of 5-[3-(3,4-dimethoxyphenethylamino)-2-hydroxypropoxy]-8-benzyloxy-3,4-dihydrocarbostyril was suspended in 50 ml of methanol, and an ethanol solution containing hydrogen chloride was added to the suspension until the mixture showed acidity. After the mixture became homogenous, 0.7 g of 10% palladium carbon was added thereto followed by stirring at room temperature and at atmospheric pressure thereby absorbing hydrogen. The reaction completed when the absorption of hydrogen ceased. The catalyst was removed by filtration, and the methanol evaporated. A small amount of ethanol was added to the residue to crystallize the product. Recrystallization from ethanol gave 1.5 g of 5-[3-(3,4-dimethoxyphenethylamino)-2-hydroxypropoxy]-8-hydroxy-3,4-dihydrocarbostyril hydrochloride as colorless powdery crystals having a melting point of 171°-173° C.

reactant | 5-[3-(3,4-dimethoxyphenethylamino)-2-hydroxypropoxy]-8-benzyloxy-3,4-dihydrocarbostyril | 2.0 g | COC=1C=C(CCNCC(COC2=C3CCC(NC3=C(C=C2)OCC2=CC=CC=C2)=O)O)C=CC1OC | C29H34N2O6
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium carbon | 0.7 g | [C].[Pd]
product | 5-[3-(3,4-dimethoxyphenethylamino)-2-hydroxypropoxy]-8-hydroxy-3,4-dihydrocarbostyril hydrochloride | 1.5 g | Cl.COC=1C=C(CCNCC(COC2=C3CCC(NC3=C(C=C2)O)=O)O)C=CC1OC | InChI=1S/C22H28N2O6.ClH/c1-28-19-6-3-14(11-20(19)29-2)9-10-23-12-15(25)13-30-18-7-5-17(26)22-16(18)4-8-21(27)24-22;/h3,5-7,11,15,23,25-26H,4,8-10,12-13H2,1-2H3,(H,24,27);1H
